US08420052B2
Compound 7-methoxy-2-(4-methoxyphenyl)-5H-imidazo[1,2-b]indazole (W302) was prepared using the general procedure for cyclization between 6-methoxy-1H-indazol-3-amine (90 mg, 0.3 mmol) and 2-bromo-1-(4-methoxyphenyl)ethanone (72 mg, 0.31 mmol), as white solid (50 mg, 57%). 1H NMR (400 MHz, DMSO-d6) δ 8.57 (s, 1 HO, 7.85-7.81 (m, 3 H), 7.16-7.12 (m, 3 H), 6.99 (dd, J=8.8, 2.4 Hz, 1 H), 3.90 (s, 3 H), 3.84 (s, 3 H); MS (ESI) m/z 294 (M+H+).

reactant | 6-methoxy-1H-indazol-3-amine | 0.3 mmol, 90 mg | COC1=CC=C2C(=NNC2=C1)N | C8H9N3O
reactant | 2-bromo-1-(4-methoxyphenyl)ethanone | 0.31 mmol, 72 mg | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
product | 7-methoxy-2-(4-methoxyphenyl)-5H-imidazo[1,2-b]indazole | COC=1C=CC=2C=3N(NC2C1)C=C(N3)C3=CC=C(C=C3)OC | C17H15N3O2
